US04076820
1-(1,3,4,6,7,11b-Hexahydro-2H-benzo[a]quinolizin-2-yl)-3-benzoyl urea.
2-Amino-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine (0.260 g) and benzoyl isocyanate (0.213 g, 5% excess) were condensed together in benzene (50 ml) in a manner analogous to that of Example 1 to give the title compound (0.325 g). Crystallization from EtOH/HCl afforded the hydrochloride (0.343 g). m.p. 171.0° C. C21H23N3O2.HCl.2H2O requires C, 59.78; H, 6.69; N, 9.96%, Found: C, 60.06; H, 6.50; N 9.89%.

reactant | 2-Amino-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine | 0.260 g | NC1CCN2CCC3=C(C2C1)C=CC=C3 | C13H18N2
reactant | benzoyl isocyanate | 0.213 g | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-(1,3,4,6,7,11b-Hexahydro-2H-benzo[a]quinolizin-2-yl)-3-benzoyl urea | 0.325 g | C1C(CCN2CCC3=C(C12)C=CC=C3)NC(=O)NC(C3=CC=CC=C3)=O | C21H23N3O2
